US06624159B2
N-(4-Chlorobenzyl)-2-(hydroxymethyl)-8-(3-hydroxy-1-propynyl)-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide [G.8, X=Cl]
A solution containing N-(4-chlorobenzyl)-2-(hydroxymethyl)-8-iodo-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide (Preparation 10, 0.15 g), anhydrous DMF (6 mL), and triethylamine (0.8 mL) is purged with nitrogen three times before adding propargyl alcohol (19 μL), copper(I)iodide (14 mg), and PdCl2(PPh3)2 (8 mg). The solution is heated to 65° C. and then is cooled, diluted with CH2Cl2 (25 mL), and poured into water (30 mL). The organic layer is washed with brine, dried (Na2SO4), filtered, and concentrated to give a brown residue. The crude product is chromatographed eluting with 0-6% methanol in CH2Cl2 (250 mL each) to give 90 mg (70%) of the title compound as a white solid. Physical characteristics: M.p. 224-225° C.; MS (ESI+) m/z 423 (M+H)+.

reactant | N-(4-chlorobenzyl)-2-(hydroxymethyl)-8-iodo-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 0.15 g | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)I)CC3CO)C=C1 | C20H16ClIN2O3
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | 0.8 mL | C(C)N(CC)CC | C6H15N
product | N-(4-Chlorobenzyl)-2-(hydroxymethyl)-8-(3-hydroxy-1-propynyl)-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 90 mg, 70% | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)C#CCO)CC3CO)C=C1 | C23H19ClN2O4
